US09034866B2
Synthesis of 8-fluoro-4-hydroxy-9-(((R)-3-hydroxy-1-methyl-2-oxopyrrolidin-3-yl)ethynyl)-4-methyl-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxamide
Similar to as described in General Procedure G, racemic ethyl 9-bromo-8-fluoro-4-hydroxy-4-methyl-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate was reacted with (R)-3-ethynyl-3-hydroxy-1-methylpyrrolidin-2-one to give a diasteromeric mixture of ethyl 8-fluoro-4-hydroxy-9-(((R)-3-hydroxy-1-methyl-2-oxopyrrolidin-3-yl)ethynyl)-4-methyl-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate. Following aminolysis of the ethyl ester (similar to as described in General Procedure M) a diasteromeric mixture of the titled compounds was obtained after purification by prep HPLC.

reactant | racemic ethyl 9-bromo-8-fluoro-4-hydroxy-4-methyl-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate | BrC1=CC2=C(OCC(C3=C2N=C(S3)C(=O)OCC)(C)O)C=C1F | C15H13BrFNO4S
reactant | (R)-3-ethynyl-3-hydroxy-1-methylpyrrolidin-2-one | C(#C)[C@]1(C(N(CC1)C)=O)O | C7H9NO2
reactant | ethyl 8-fluoro-4-hydroxy-9-(((R)-3-hydroxy-1-methyl-2-oxopyrrolidin-3-yl)ethynyl)-4-methyl-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate | FC=1C(=CC2=C(OCC(C3=C2N=C(S3)C(=O)OCC)(C)O)C1)C#C[C@]1(C(N(CC1)C)=O)O | C22H21FN2O6S
product | 8-fluoro-4-hydroxy-9-(((R)-3-hydroxy-1-methyl-2-oxopyrrolidin-3-yl)ethynyl)-4-methyl-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxamide | FC=1C(=CC2=C(OCC(C3=C2N=C(S3)C(=O)N)(C)O)C1)C#C[C@]1(C(N(CC1)C)=O)O | C20H18FN3O5S
